US03954754
EXAMPLE 57: 6-Benzoyl-3-cyclohexylidenehydrazino-5,6,7,8-tetrahydropyridino[4,3-c]-pyridazine
A suspension of 8.3 g of 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 20 cc of cyclohexanone is boiled at reflux at a bath temperature of 180° for 2 hours. The title compound has a M.P. of 188°-191° (decomp., from acetonitrile).

reactant | 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 8.3 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C14H15N5O
solvent | cyclohexanone | 20 cc | C1(CCCCC1)=O | C6H10O
product | 6-Benzoyl-3-cyclohexylidenehydrazino-5,6,7,8-tetrahydropyridino[4,3-c]-pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN=C2CCCCC2)CC1 | C20H23N5O
